US04663344
Step C: Preparation of 3-hydroxy-2-(m-methylphenyl)-5-trifluoromethylbenzo[b]thiophene
To a slurry of sodium hydride (50% dispersion in mineral oil) (253 mg, 5.27 mmol) in N,N-dimethylformamide (3 ml) at 75° C. under a nitrogen atmosphere was added a solution of methyl 2-(m-methylbenzylthio)-5-trifluoromethylbenzoate (885 mg, 2.60 mmol) in N,N-dimethylformamide (12 ml). Gas evolution was observed during the 20 minute addition period. After stirring an additional 45 minutes at 75° C., water (70 ml) was added, and the aqueous mixture was brought to pH5-6 at room temperature with 2N hydrochloric acid. Extraction of the mixture with diethyl ether followed by washing the combined extracts with water and evaporation gave a residue that was chromatographed on a column of silica gel (Merck 7734, packed as a slurry in 15:1 hexane-ether). Elution with 15:1 hexane-ether containing 1% acetic acid and evaporation of the appropriate fractions afforded the product as a white crystalline solid; yield 450 mg (56%); m/z 308 (M+.); m.p. 124°-126°.

reactant | sodium hydride | 5.27 mmol, 253 mg | [H-].[Na+]
reactant | methyl 2-(m-methylbenzylthio)-5-trifluoromethylbenzoate | 2.60 mmol, 885 mg | CC=1C=C(CSC2=C(C(=O)OC)C=C(C=C2)C(F)(F)F)C=CC1 | C17H15F3O2S
reactant | water | 70 ml | O | H2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 3-hydroxy-2-(m-methylphenyl)-5-trifluoromethylbenzo[b]thiophene | OC=1C2=C(SC1C1=CC(=CC=C1)C)C=CC(=C2)C(F)(F)F | C16H11F3OS
